US05576324
5-Allyl-6-hydroxy-8-methylcarbostyril (9.36 g, 43.5 mmol) was dissolved in chloroform (11) with heat. To the obtained solution, N-bromosuccinimide (7.75 g, 43.5 mmol) was added, and the mixture was refluxed for 2 hours. After completion of the reaction, water was added to the reaction mixture, and unreacted 5-allyl-6-hydroxy-8-methylcarbostyril (2.2 g, 23.5%) was separated as an insoluble matter by filtration. The filtrate was washed with water, dried and condensed. The resultant residue was subjected to a recrystallizing procedure using tetrahydrofuran to obtain 4.90 g of 2-bromomethyl-5-methyl-1,2-dihydrofuro-[3,2-f]quinoline-7-one as pale yellow crystals (38.3%).

reactant | 5-Allyl-6-hydroxy-8-methylcarbostyril | 43.5 mmol, 9.36 g | C(C=C)C1=C2C=CC(NC2=C(C=C1O)C)=O | C13H13NO2
reactant | N-bromosuccinimide | 43.5 mmol, 7.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
reactant | 5-allyl-6-hydroxy-8-methylcarbostyril | 2.2 g | C(C=C)C1=C2C=CC(NC2=C(C=C1O)C)=O | C13H13NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-bromomethyl-5-methyl-1,2-dihydrofuro-[3,2-f]quinoline-7-one | 4.90 g, 38.3% | BrCC1CC2=C3C=CC(NC3=C(C=C2O1)C)=O | C13H12BrNO2
